US04886835
The procedure is as in Example 24 for the preparation of N-(3-dimethylamino-3-phenylpropenylidene)-N-methylmethanaminium tetrafluoroborate, starting with 4-dimethylamino-1-phenyl-3-butene-1,2-dione (9.3 g), triethyloxonium tetrafluoroborate (10.3 g) and dimethylamine (3.2 cc) in dichloromethane (140 cc). After precipitation in ethyl acetate (30 cc), N-(3-dimethylamino-3-benzoylpropenylidene)-N-methylmethanaminium tetrafluoroborate (5 g), m.p. 140° C., is obtained.

reactant | N-(3-dimethylamino-3-phenylpropenylidene)-N-methylmethanaminium tetrafluoroborate | F[B-](F)(F)F.CN(C(=CC=[N+](C)C)C1=CC=CC=C1)C
reactant | 4-dimethylamino-1-phenyl-3-butene-1,2-dione | 9.3 g | CN(C=CC(C(=O)C1=CC=CC=C1)=O)C | C12H13NO2
reactant | triethyloxonium tetrafluoroborate | 10.3 g | F[B-](F)(F)F.C(C)[O+](CC)CC
reactant | dimethylamine | 3.2 cc | CNC | C2H7N
solvent | dichloromethane | 140 cc | ClCCl | CH2Cl2
product | N-(3-dimethylamino-3-benzoylpropenylidene)-N-methylmethanaminium tetrafluoroborate | 5 g | F[B-](F)(F)F.CN(C(=CC=[N+](C)C)C(C1=CC=CC=C1)=O)C | InChI=1S/C14H19N2O.BF4/c1-15(2)11-10-13(16(3)4)14(17)12-8-6-5-7-9-12;2-1(3,4)5/h5-11H,1-4H3;/q+1;-1
